US06200991B1
1-phenyl-2-methylsulphonyl-4,5,6,7-tetrahydro-1H-benzimidazole
3.8 g of previously moistened alumina, 7.07 g (11.5 mmol) of oxone and 10 ml of chloroform are vigorously stirred. A solution of 0.9 g (3.7 mmol) of 1-phenyl-2-methylthio-4,5,6,7-tetrahydro-1H-benzimidazole, solubilized in 10 ml of chloroform, is added to this medium and then the stirring is continued while heating under reflux for 2 hours. The mixture is cooled to 0° C. and then filtered, the solid is rinsed with 10 ml of chloroform and 10 ml of a 9/1 THF/CH3OH mixture. The filtrate is concentrated under reduced pressure and then purified on a silica column with the aid of a 99/1 then 98/2 dichloromethane/methanol mixture. 0.65 g of product is obtained. Yield=62%.

reactant | oxone | 11.5 mmol, 7.07 g | OOS(=O)[O-].[K+]
reactant | 1-phenyl-2-methylthio-4,5,6,7-tetrahydro-1H-benzimidazole | 3.7 mmol, 0.9 g | C1(=CC=CC=C1)N1C(=NC2=C1CCCC2)SC | C14H16N2S
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-phenyl-2-methylsulphonyl-4,5,6,7-tetrahydro-1H-benzimidazole | 0.65 g, Yield=62% | C1(=CC=CC=C1)N1C(=NC2=C1CCCC2)S(=O)(=O)C | C14H16N2O2S
